US05304325
1-hexadecyl glycerol (105 g, .33mol) and 93 g (0.33 mol) tritylchloride were dissolved in 300 ml of pyridine. The mixture was heated at 100° C. for 16 hours. After cooling to room temperature 1500 ml of ethyl ether was added and the slurry washed 3 times with cold .5N H2SO4, 5% sodium bicarbonate and 2 times with water. The organic phase was dried over MgSO4, the ether removed on a rotary evaporator and the residue recrystallized from ethanol, yielding the intermediate 1-hexadecyl-3-trityl glycerol (129 g, 70%). The 2 position of this intermediate was alkylated with tetradecyl bromide in the same manner (powdered KOH in toluene) as described earlier for the dialkylation of benzyl glycerol in the preparation of 1,2-dihexadecyl glycerol. The resulting 1-hexadecyl-2-tetradecyl-3-trityl glycerol (128 g) was dissolved in 300 ml of petroleum ether. At room temperature 30 g of anhydrous hydrogen chloride was added. A precipitate formed within a short time. The slurry was stirred at room temperature for 4 hours and then filtered. The solids were recrystallized from acetone (10° C.) to give 45.6 g of product, m.p. 42°-3° C.

reactant | 1-hexadecyl glycerol | .33mol, 105 g | C(CCCCCCCCCCCCCCC)OCC(O)CO | C19H40O3
reactant | tritylchloride | 0.33 mol, 93 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | ethyl ether | 1500 ml | C(C)OCC | C4H10O
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 1-hexadecyl-3-trityl glycerol | 129 g, 70% | C(CCCCCCCCCCCCCCC)OCC(O)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H54O3
